US08053431B2
To a solution of 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid (0.82 g, 0.00357 mol) in dry DMF (8.0 mL) was added with stirring HOBt (0.578 g, 0.00428 mol), DIPEA (1.9 mL, 0.0107 mol), 8-azabicyclo[3.2.1]octan-3-ol (0.5 g, 0.00393 mol) and the mixture was cooled to 0° C. To the resulting mixture was added EDCl (0.82 g, 0.00428 mol) and stirred for 15 h at ambient temperature. The reaction mixture was then diluted with ice water (100 mL), extracted with EtOAc (3×50 mL) and the combined organic phases were washed with water (3×50 mL) and saturated brine solution (50 mL). The organic phase was dried (Na2SO4) and the solvent evaporated affording (1.1 g, 98%) of [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-azabicyclo[3.2.1]oct-8-yl)methanone. MS-ESI m/z 341 (M+1).

reactant | 1-(2-azidoethyl)-1H-benzimidazole-5-carboxylic acid | 0.00357 mol, 0.82 g | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)O | C10H9N5O2
reactant | HOBt | 0.00428 mol, 0.578 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.0107 mol, 1.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 8-azabicyclo[3.2.1]octan-3-ol | 0.00393 mol, 0.5 g | C12CC(CC(CC1)N2)O | C7H13NO
reactant | EDCl | 0.00428 mol, 0.82 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-azabicyclo[3.2.1]oct-8-yl)methanone | 1.1 g, 98% | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC2CC1)O | C17H20N6O2
